US04684662
(b) trans-1-Acetamido-2-(2-chloro-2-cyanoethyl)cyclopentane
16.1 g of trans-1-acetamido-2-chloromercuriocyclopentane are suspended in 200 ml of ethanol. 10.7 ml of 2-chloroacrylonitrile are added, followed by 1.7 g of sodium borohydride in 40 ml of ethanol as rapidly as possible while cooling in ice. After 1 hour at room temperature, the mixture is filtered with suction through kieselguhr, the filtrate is evaporated, the residue is taken up with methylene chloride, this solution is washed twice with 1N sodium hydroxide solution, and the organic phase is dried over sodium sulfate and evaporated. Chromatography on silica gel (mobile phase ethyl acetate) produces 2.2 g of crystalline product, melting point 114°-117° C.

reactant | trans-1-acetamido-2-chloromercuriocyclopentane | 16.1 g | C(C)(=O)N[C@H]1[C@@H](CCC1)[Hg]Cl
reactant | 2-chloroacrylonitrile | 10.7 ml | ClC(C#N)=C | C3H2ClN
reactant | sodium borohydride | 1.7 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | trans-1-Acetamido-2-(2-chloro-2-cyanoethyl)cyclopentane | 2.2 g | C(C)(=O)N[C@H]1[C@@H](CCC1)CC(C#N)Cl | C10H15ClN2O
